US04096331
3-(2-Morpholinoethoxy)-1-(3,4,5-trimethoxyphenylacetyl)pyrrolidine Hemihydrate
Under anhydrous conditions 5.3 g. crude 3,4,5-trimethoxyphenylacetic acid chloride [equivalent to 4.5 g. (0.0184 mole) by nuclear resonance spectrum analysis] in 20 ml. dry benzene was added dropwise to a stirring mixture of 3.7 g. (0.0184 mole) of 3-(2-morpholinoethoxy)pyrrolidine and 30 g. (0.0217 mole) of potassium carbonate in 50 ml. dry benzene. The product formed rapidly and separated out as a gummy mass. After stirring 1 hr. at room temperature, chloroform was stirred into the reaction mixture to dissolve the product. The inorganic materials were removed by filtration and the filtrate concentrated at reduced pressure to give 5.3 g. crude product (70% yield). A portion (2.6 g.) of the crude product was chromatographed on magnesium silicate to give 1.6 g. of pure product.

reactant | 3,4,5-trimethoxyphenylacetic acid chloride | 0.0184 mole, 4.5 g | COC=1C=C(C=C(C1OC)OC)CC(=O)Cl | C11H13ClO4
reactant | 3-(2-morpholinoethoxy)pyrrolidine | 0.0184 mole | O1CCN(CC1)CCOC1CNCC1 | C10H20N2O2
reactant | potassium carbonate | 0.0217 mole | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(2-Morpholinoethoxy)-1-(3,4,5-trimethoxyphenylacetyl)pyrrolidine Hemihydrate | 70% yield | O.O1CCN(CC1)CCOC1CN(CC1)C(CC1=CC(=C(C(=C1)OC)OC)OC)=O.O1CCN(CC1)CCOC1CN(CC1)C(CC1=CC(=C(C(=C1)OC)OC)OC)=O | InChI=1S/2C21H32N2O6.H2O/c2*1-25-18-12-16(13-19(26-2)21(18)27-3)14-20(24)23-5-4-17(15-23)29-11-8-22-6-9-28-10-7-22;/h2*12-13,17H,4-11,14-15H2,1-3H3;1H2
